US07402585B2
3-nitro-1H-pyrazole-5-carboxylic acid (1 g, 6.36 mmol) in dimethylformamide (10 ml) was reacted with 3-fluoroaniline (673 μl, 7 mmol) in the presence of 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride (1.34 g, 7 mmol) and 2-hydroxy-pyridin-1-oxide (778 mg, 7 mmol) at 40° C. for 1.5 hour. The solvent was evaporated, and the residue purified by chromatography on silica gel. Elution with dichloromethane:methanol (99:1) then (97:3) yielded N-(3-fluorophenyl)-3-nitro-1H-pyrazole-5-carboxamide (668 mg, 42% yield):

reactant | 3-nitro-1H-pyrazole-5-carboxylic acid | 6.36 mmol, 1 g | [N+](=O)([O-])C1=NNC(=C1)C(=O)O | C4H3N3O4
reactant | 3-fluoroaniline | 7 mmol, 673 μl | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride | 7 mmol, 1.34 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-hydroxy-pyridin-1-oxide | 7 mmol, 778 mg | OC1=[N+](C=CC=C1)[O-] | C5H5NO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(3-fluorophenyl)-3-nitro-1H-pyrazole-5-carboxamide | 668 mg, 42% yield | FC=1C=C(C=CC1)NC(=O)C1=CC(=NN1)[N+](=O)[O-] | C10H7FN4O3
